US07902238B2
To a stirred solution of (RS)-4-formyl-2,2,4-trimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (300 mg) at r.t. in methanol (3 ml) was added aniline (132 mg) and the mixture was heated at 80° C. for 3 h. NaBH4 (93 mg) was then added and the mixture was stirred at 60° C. for 16 h, then cooled to r.t. and concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient:heptane/ethyl acetate) to give (RS)-2,2,4-trimethyl-4-phenylaminomethyl-oxazolidine-3-carboxylic acid tert-butyl ester (181 mg, 46%) as a yellow oil. MS (ISP): 321.1 ([M+H]+).

reactant | (RS)-4-formyl-2,2,4-trimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1C(OCC1(C)C=O)(C)C | C12H21NO4
reactant | aniline | 132 mg | NC1=CC=CC=C1 | C6H7N
reactant | NaBH4 | 93 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | (RS)-2,2,4-trimethyl-4-phenylaminomethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 181 mg, 46% | C(C)(C)(C)OC(=O)N1C(OCC1(CNC1=CC=CC=C1)C)(C)C | C18H28N2O3
